US08030322B2
Preparation 25: ethyl 2,4-dimethylthiazole-5-carboxylate (Prep25)
The mixture of ethyl 2-chloroacetoacetate (111.2 g, 0.68 mol) and thioacetamide (40 g, 0.68 mol) in 150 ml ethanol was heated to 90° C. and stirred for 5 h. After cooling to room temperature, the solvent was removed under vacuum to afford the title compound (105 g, y=83%).

reactant | ethyl 2-chloroacetoacetate | 0.68 mol, 111.2 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | thioacetamide | 0.68 mol, 40 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 2,4-dimethylthiazole-5-carboxylate | 105 g, 83% | CC=1SC(=C(N1)C)C(=O)OCC | C8H11NO2S
